US20010001799A1
In analogy to Example 70.4-6, from the methyl (RS)-(3-amino-4-methoxy-phenyl)-(4-cyano-phenylamino)-acetate described in Example 70.3, glutaric anhydride and Hünig's base in DMF there was obtained (RS)-4-{5-[(4-cyano-phenylamino)-methoxycarbonyl-methyl]-2-methoxy-phenylcarbamoyl}-butyric acid, which was subsequently converted via (RS)-4-{5-[carboxy-(4-cyano-phenylamino)-methyl]-2-methoxy-phenylcarbamoyl}-butyric acid into (RS)-(E)- and/or -(Z)-4-(5-{carboxy-[4-(N-hydroxycarbamimidoyl)-phenylamino]-methyl} -2-methoxy-phenylcarbamoyl)-butyric acid.

reactant | methyl (RS)-(3-amino-4-methoxy-phenyl)-(4-cyano-phenylamino)-acetate | NC=1C=C(C=CC1OC)C(C(=O)OC)NC1=CC=C(C=C1)C#N | C17H17N3O3
reactant | glutaric anhydride | C1(CCCC(=O)O1)=O | C5H6O3
reactant | Hünig's base | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | (RS)-4-{5-[(4-cyano-phenylamino)-methoxycarbonyl-methyl]-2-methoxy-phenylcarbamoyl}-butyric acid | C(#N)C1=CC=C(C=C1)NC(C=1C=CC(=C(C1)NC(=O)CCCC(=O)O)OC)C(=O)OC | C22H23N3O6
